US07557127B2
To a solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (310 mg) and cyclopropylmethyl bromide (116 mg) in acetonitrile (7 ml) was added potassium hydrogencarbonate (85.9 mg) and potassium iodide (28.5 mg) at 20° C. and then the mixture was stirred at 50° C. for 3 hours. The mixed solution was poured into a mixture of water (20 ml) and AcOEt (20 ml). The pH of the aqueous layer was adjusted to ca. 9 with NaHCO3. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (8 g) using a mixed solvent of dichloromethane and MeOH (40:1 to 20:1). The fractions containing the objective compound were collected and evaporated under reduced pressure. Ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopropylmethyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (170 mg) was obtained as colorless syrup.

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 310 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1 | C19H27N3O4
reactant | cyclopropylmethyl bromide | 116 mg | C1(CC1)CBr | C4H7Br
reactant | potassium hydrogencarbonate | 85.9 mg | C(O)([O-])=O.[K+]
reactant | potassium iodide | 28.5 mg | [I-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
product | Ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopropylmethyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 170 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1CC1 | C23H33N3O4
